US05439911
Triethylamine (0.17 g, 1.68 mmol) was added to a solution of ethyl 4-chloro-6-ethyl-2-methylthiopyrimidine-5-carboxylate (0.21 g, 0.81 mmol) in toluene (4 ml), followed by addition of 3,4-dimethoxyphenethylamine (0.18 g, 0.99 mmol). The mixture was stirred at room temperature for 14 hours. The reaction mixture was poured into water, extracted with ethyl acetate and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (=8/2) to give the desired ethyl 4-(2-(3,4-dimethoxyphenyl)ethylamino)-6-ethyl-2-methylthiopyrimidine-5-carboxylate (0.16 g, 49%).

reactant | Triethylamine | 1.68 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-chloro-6-ethyl-2-methylthiopyrimidine-5-carboxylate | 0.81 mmol, 0.21 g | ClC1=NC(=NC(=C1C(=S)OCC)CC)C | C10H13ClN2OS
reactant | 3,4-dimethoxyphenethylamine | 0.99 mmol, 0.18 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | water | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(2-(3,4-dimethoxyphenyl)ethylamino)-6-ethyl-2-methylthiopyrimidine-5-carboxylate | 0.16 g, 49% | COC=1C=C(C=CC1OC)CCNC1=NC(=NC(=C1C(=S)OCC)CC)C | C20H27N3O3S
